US04515799
4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(2,4,5-trimethyl-1-imidazolyl)ethoxymethyl]-1,4-dihydropyridine, hydrochloride salt
Ethyl 4-[2-(2,4,5-trimethyl-1-imidazolyl)ethoxy]acetoacetate (6.4 g), 2-chlorobenzaldehyde (3.2 g), methyl 3-aminocrotonate (2.6 g) and acetic acid (1 ml) in ethanol (15 ml) were mixed and heated under reflux for 4.5 hours. The cooled reaction mixture was then evaporated to dryness and the residue partitioned between 2N hydrochloric acid (100 ml) and toluene (50 ml). The acid layer was separated, extracted with methylene chloride (3×20 ml) and the extracts were washed with saturated aqueous sodium carbonate (30 ml), dried (Na2CO3), filtered, and evaporated. The residue in a little toluene was chromatographed on silica (t.l.c. grade, 4 g), eluting with methylene chloride plus 30% v/v petrol. Appropriate fractions were combined, evaporated to dryness and redissolved in ethyl acetate. Addition of ethereal hydrogen chloride precipitated the hydrochloride salt, which was recrystllised from ethyl acetate to give the title compound (1.2 g), m.p. 167°-8° C.

reactant | Ethyl 4-[2-(2,4,5-trimethyl-1-imidazolyl)ethoxy]acetoacetate | 6.4 g | CC=1N(C(=C(N1)C)C)CCOCC(CC(=O)OCC)=O | C14H22N2O4
reactant | 2-chlorobenzaldehyde | 3.2 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methyl 3-aminocrotonate | 2.6 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(2,4,5-trimethyl-1-imidazolyl)ethoxymethyl]-1,4-dihydropyridine, hydrochloride salt | 1.2 g | Cl.ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCN1C(=NC(=C1C)C)C)C(=O)OCC | InChI=1S/C26H32ClN3O5.ClH/c1-7-35-26(32)24-21(14-34-13-12-30-17(4)15(2)28-18(30)5)29-16(3)22(25(31)33-6)23(24)19-10-8-9-11-20(19)27;/h8-11,23,29H,7,12-14H2,1-6H3;1H
